US04914101
2-Methyl-2H-[1]benzothieno[3,2-e]-1,2-thiazine-3-(4H)-one-1,1-dioxide
A solution of 2-[(Methylamino)sulfonyl]-benzo-[b]thiophene-3-acetic acid (450 mg, 1.58 mmoles) and p-toluenesulfonic acid (45 mg) in xylenes (100 ml) was refluxed in a Dean-Stark trap for 6 hours. The solvent was evaporated and the resulting solid recrystallized from isopropanol to give the title compound (318 mg) in a yield of 765, mp 175°-178° C.; ms:m/e 267 (m+,25), 210(8), 160(5), 146(100); 1H-nmr(deuteriochloroform): δ7.96 (m,1H), 7,80 (m,1H), 7.58 (m,2H), 4.22 (s,2H), 3.38 (5,3H); ir (potassium bromide): 1700 cm-1.

reactant | 2-[(Methylamino)sulfonyl]-benzo-[b]thiophene-3-acetic acid | 1.58 mmoles, 450 mg | CNS(=O)(=O)C1=C(C2=C(S1)C=CC=C2)CC(=O)O | C11H11NO4S2
reactant | p-toluenesulfonic acid | 45 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-Methyl-2H-[1]benzothieno[3,2-e]-1,2-thiazine-3-(4H)-one-1,1-dioxide | 318 mg | CN1S(C2=C(CC1=O)C1=C(S2)C=CC=C1)(=O)=O | C11H9NO3S2
